US09340549B2
(S)-3-Amino-4-((4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)cyclohexyl)amino)benzonitrile
To a flask charged with (S)-4-((4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)cyclohexyl)amino)-3-nitrobenzonitrile (0.490 g, 1.083 mmol) was added EtOH (4.33 mL) followed by tin (II) chloride (0.616 g, 3.25 mmol). The resulting yellow suspension was heated overnight at 80° C. LC-MS analysis of the resulting suspension indicated about 90% conversion to the desired product (215 nm). Additional EtOH (4 mL) was added to aid solubilization and additional SnCl2 was added (300 mg). The resulting mixture was heated at 80° C. After 1 hour, LC-MS indicated complete conversion. The yellow suspension was dried under reduced pressure and the residue was purified with a 50 g SNAP column ramping DCM:MeOH (90:10) in DCM (0-30%, then isocratic at 30%, detection at 215 nm) to provide (S)-3-amino-4-((4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)cyclohexyl)amino)benzonitrile (0.156 g, 0.369 mmol, 34.1% yield) as a brown oil and as a mixture of isomers with impurities present (˜20% based on LC-MS). The material was used in the next step without further purification. m/z (ESI) 423.2 (M+H)+.

reactant | (S)-4-((4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)cyclohexyl)amino)-3-nitrobenzonitrile | 1.083 mmol, 0.490 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1(C)C)=O)C1CCC(CC1)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C24H25FN4O4
reactant | tin (II) chloride | 3.25 mmol, 0.616 g | [Sn](Cl)Cl
solvent | EtOH | 4.33 mL | CCO | C2H6O
product | (S)-3-Amino-4-((4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)cyclohexyl)amino)benzonitrile | NC=1C=C(C#N)C=CC1NC1CCC(CC1)N1C(OC([C@@H]1C1=CC=C(C=C1)F)(C)C)=O | C24H27FN4O2
